US09079866B2
3-Amino-6-[2′-(cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazine-2-carbonitrile
The title compound was prepared in manner similar to that described in Example 88 using 1-bromo-2-(cyclopropylsulfonyl)benzene and 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C20H15FN4O2S, 394.09; m/z found, 395.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.84 (d, J=1.8, 1H), 8.14 (dd, J=8.0, 1.4, 1H), 8.01 (m, 1H), 7.66 (m, 1H), 7.58 (m, 1H), 7.39-7.35 (m, 3H), 5.34 (s, 2H), 2.13-2.05 (m, 1H), 1.13-1.06 (m, 2H), 0.88-0.82 (m, 2H).

reactant | 1-bromo-2-(cyclopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
reactant | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
product | 3-Amino-6-[2′-(cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C1CC1)F)C#N | C20H15FN4O2S
